US06544985B2
A mixture of 3-(5-methyl-thiazol-4-yl)-benzoic acid methyl ester (2.40 g), N-bromosuccinimid (2.01 g) and α,α′-bis(isobutyronitrile) (0.02 g) in CCl4 (40 mL) was heated at reflux for 30 min. The cooled mixture was filtered and the solvent was evaporated to give crude 3-(5-bromomethyl-thiazol-4-yl)-benzoic acid methyl ester (3.36 g) as an oil.

reactant | 3-(5-methyl-thiazol-4-yl)-benzoic acid methyl ester | 2.40 g | COC(C1=CC(=CC=C1)C=1N=CSC1C)=O | C12H11NO2S
reactant | N-bromosuccinimid | 2.01 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(5-bromomethyl-thiazol-4-yl)-benzoic acid methyl ester | 3.36 g | COC(C1=CC(=CC=C1)C=1N=CSC1CBr)=O | C12H10BrNO2S
